US04443466
4-(2',4',6'-Trimethylbenzyl)imidazole
3.0 g of 4-chloromethylimidazole hydrochloride are suspended in 20 ml of mesitylene. 5 ml of dimethylformamide are added and the reaction mixture is refluxed for 12 hours, then cooled. 30 ml of water are added, the layers are separated, and the aqueous phase is washed with chloroform. The aqueous solution is then made alkaline with sodium carbonate solution and extracted with chloroform. The combined chloroform extracts are washed with water and evaporated to dryness. The residue, which is crude 4-(2',4',6'-trimethylbenzyl)imidazole, is converted to the hydrochloride by treatment with concentrated hydrochloric acid. The hydrochloride salt melts at 166°-169° C.

reactant | 4-chloromethylimidazole hydrochloride | 3.0 g | Cl.ClCC=1N=CNC1
reactant | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
reactant | water | 30 ml | O | H2O
reactant | mesitylene | 20 ml | C1(=CC(=CC(=C1)C)C)C | C9H12
product | 4-(2',4',6'-Trimethylbenzyl)imidazole | CC1=C(CC=2N=CNC2)C(=CC(=C1)C)C | C13H16N2
